US04927838
As in Example 111, 6-methoxy-3-pentyl-1H-2-indenecarboxaldehyde (8.5 g) and (carbomethoxymethylene)triphenylphosphorane (18.8 g) in dichloromethane (75 mL) was stirred at room temperature for 42 hours. The crude reaction product from the normal work up was purified by HPLC (diethyl ether-hexane; 1:3) to provide 6.4 g of (E)-3-(6-methoxy-3-pentyl-1H-inden-2-yl)-2-propenoic acid methyl ester as an oil.

reactant | 6-methoxy-3-pentyl-1H-2-indenecarboxaldehyde | 8.5 g | COC1=CC=C2C(=C(CC2=C1)C=O)CCCCC | C16H20O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 18.8 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (E)-3-(6-methoxy-3-pentyl-1H-inden-2-yl)-2-propenoic acid methyl ester | 6.4 g | COC(\C=C\C=1CC2=CC(=CC=C2C1CCCCC)OC)=O | C19H24O3
